US06323267B1
12.9 g (0.052 mol) of 5,7-di-tert-butyl-3-hydroxybenzofuranone are dissolved in 50 ml of toluene and treated with 2.9 ml (0.052 mol) of bromine at 30° C. The mixture is subsequently stirred at 60° C. for 30 minutes. The solvent is distilled off by means of a rotary evaporator. 1 g of the crude product is purified by flash chromatography over silica gel (Merck Silicagel 60, 70-230 mesh ASTM; mobile phase: 1:1 hexane/dichloromethane) to leave 0.26 g (36% of theory) of 5,7-di-tert-butyl-3-bromobenzofuranone (XLVII).

reactant | 5,7-di-tert-butyl-3-hydroxybenzofuranone | 0.052 mol, 12.9 g | C(C)(C)(C)C=1C=C(C2=C(C(C(O2)=O)O)C1)C(C)(C)C | C16H22O3
reactant | bromine | 0.052 mol, 2.9 ml | BrBr | Br2
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 5,7-di-tert-butyl-3-bromobenzofuranone | 0.26 g, 36% | C(C)(C)(C)C=1C=C(C2=C(C(C(O2)=O)Br)C1)C(C)(C)C | C16H21BrO2
